US08003651B2
1-Chloroethylformate (1.0 mL, 9.27 mmol) was added to a solution of methyl 1-benzyl-3-(4-chlorophenyl)pyrrolidine-3-carboxylate (3.05 g, 9.25 mmol) in toluene (40 mL) at 0° C. The mixture was refluxed for 10 hours. After cooling, the solvent was removed under vacuum. The residue was treated with MeOH (20 mL) and refluxed for 1 hour. The solvent was removed, and the residue was dissolved in ethyl acetate (200 mL) and washed with 1N NaOH (50 mL) and then water. The organic phase was dried and concentrated. The residue was subject to column chromatography, eluted by EtOAc-DCM/MeOH (10:1). The resulting methyl 3-(4-chlorophenyl)pyrrolidine-3-carboxylate (LCMS (APCI+) [M-Boc+H]+ 240.1; Rt: 2.06 min) was dissolved in DCM (20 mL) and TEA (1 mL), and then treated with Boc anhydride (1 g, 4.58 mmol). After stirring for 2 hours, the solvent was removed, and the 1-tert-butyl 3-methyl 3-(4-chlorophenyl)pyrrolidine-1,3-dicarboxylate (LCMS (APCI+) [M-Boc+H]+ 240.1; Rt: 3.78 mm) was dissolved in THF (50 mL). LiOH (3M, 6 mL) was added to the mixture. The mixture was stirred at room temperature overnight and then quenched with 2N HCl (9 mL). The solvent was removed, and the residue was subject to column chromatography, eluted by hexanes/EtOAc(4:1)-DCM/MeOH (20:1) to give 1-(tert-butoxycarbonyl)-3-(4-chlorophenyl)pyrrolidine-3-carboxylic acid. LCMS (APCI+) [M-Boc+H]+ 224.1; Rt: 2.90 min.

reactant | 1-Chloroethylformate | 9.27 mmol, 1.0 mL | ClC(C)OC=O | C3H5ClO2
reactant | methyl 1-benzyl-3-(4-chlorophenyl)pyrrolidine-3-carboxylate | 9.25 mmol, 3.05 g | C(C1=CC=CC=C1)N1CC(CC1)(C(=O)OC)C1=CC=C(C=C1)Cl | C19H20ClNO2
reactant | Boc anhydride | 4.58 mmol, 1 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | 1-(tert-butoxycarbonyl)-3-(4-chlorophenyl)pyrrolidine-3-carboxylic acid | C(C)(C)(C)OC(=O)N1CC(CC1)(C(=O)O)C1=CC=C(C=C1)Cl | C16H20ClNO4
